US08048897B2
(1) Synthesis of 3-(4-Ethylbenzyl)phenylboronic Acid
In a nitrogen stream, a solution of 1-bromo-3-(4-ethylbenzyl)benzene (2.19 g, 7.96 mmol) in THF (20 mL) was cooled to −78° C., and an n-butyllithium hexane solution (2.44 M, 3.42 mL) was added dropwise thereto and the mixture solution was stirred at the same temperature for 20 minutes. After addition of trimethyl borate (2.68 mL, 23.87 mmol), the reaction mixture was stirred at the temperature for five minutes and at room temperature for 12.5 hours. After cooling the reaction mixture in an ice bath, concentrated sulfuric acid (10 mL) was added dropwise thereto and the mixture solution was stirred at the same temperature for one hour. The mixture was extracted with ether and the organic layer was washed with water and then dried over sodium sulfate. To a white solid obtained by distilling the solvent under reduced pressure was added hexane-ethyl acetate (10:1)(5 mL), the mixture was filterated and then the obtained solid was washed with hexane-ethyl acetate (10:1). The obtained white powder was dried under reduced pressure to obtain the title compound (604.2 mg, 32%).

reactant | 1-bromo-3-(4-ethylbenzyl)benzene | 7.96 mmol, 2.19 g | BrC1=CC(=CC=C1)CC1=CC=C(C=C1)CC | C15H15Br
reactant | n-butyllithium hexane | 2.44 M, 3.42 mL | CCCCCC.C(CCC)[Li]
reactant | trimethyl borate | 23.87 mmol, 2.68 mL | B(OC)(OC)OC | C3H9BO3
reactant | sulfuric acid | 10 mL | S(O)(O)(=O)=O | H2O4S
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 3-(4-Ethylbenzyl)phenylboronic Acid | 604.2 mg, 32% | C(C)C1=CC=C(CC=2C=C(C=CC2)B(O)O)C=C1 | C15H17BO2
